US04806562
To a solution of methyl (3-formylthiophene-2-ylthio)acetate (19.31 g, 91 g, 91 mmol) in methanol (150 mL) was added 1,5-diazabicyclo[4.3.0]non-5-ene (DBN) (1 mL, 1 g, 8.05 mmol) and the stirred reaction flask was immediately immersed in an ice-water bath. Stirring was continued for 30 minutes and the mixture was filtered to give a tacky solid product which was washed with a little cold (-20° C.) methanol. The solvent was evaporated in vacuo from the mother liquor and the residue was partitioned between ether and aqueous sodium bicarbonate. The water layer was washed with ether twice, and the combined ether extracts were dried (MgSO4), filtered, and the solvent evaporated in vacuo to give an oil which solidified when triturated with a little cold (-20° C.) methanol. This was combined with the original solid product to give a total of 14.55 g of methyl thieno[2,3-b]thiophene-2-carboxylate, m.p. 101°-105° C. Recrystallization from methanol gave product with m.p. 106°-107° C. Anal. Calc'd for C8H6O2S2 : C, 48.47; H, 3.05. Found: C, 48.80; H, 3.32.

reactant | methyl (3-formylthiophene-2-ylthio)acetate | 91 mmol, 19.31 g | C(=O)C1=C(SC=C1)SCC(=O)OC | C8H8O3S2
reactant | 1,5-diazabicyclo[4.3.0]non-5-ene | 8.05 mmol, 1 mL, 1 g | N12CCCN=C2CCC1 | C7H12N2
solvent | methanol | 150 mL | CO | CH4O
product | methyl thieno[2,3-b]thiophene-2-carboxylate | 14.55 g | S1C(=CC2=C1SC=C2)C(=O)OC | C8H6O2S2
